US06846819B1
a) N,3-Dimethylinden-2-carboxamide
EDC (1.53 g, 0.01 mole) was added to a solution of 3-methyl-2-inden-2-carboxylic acid (1.91 g, 0.01 mole), methylamine hydrochloride (0.675 g, 0.01 mole), HOBt H2O (1.53 g, 0.01 mole) and triethylamine (4.0 mL, 0.028 mole) in anhydrous DMF (80 mL) at RT. The reaction was stirred overnight, then was concentrated in vacuo. The residue was diluted with 5% NaHCO3 and the resulting white precipitate was collected, washed with water and dried at 50° C. in a vacuum oven to afford the title compound (1.6 g, 86%) as a white solid: MS (ES) n/e 188.2 (M+H)+.

reactant | EDC | 0.01 mole, 1.53 g
reactant | methylamine hydrochloride | 0.01 mole, 0.675 g | Cl.CN
reactant | HOBt H2O | 0.01 mole, 1.53 g | C=1C=CC2=C(C1)N=NN2O.O
reactant | triethylamine | 0.028 mole, 4.0 mL | C(C)N(CC)CC | C6H15N
reactant | DMF | 80 mL | CN(C)C=O | C3H7NO
product | N,3-Dimethylinden-2-carboxamide | 1.6 g, 86% | CNC(=O)C=1CC2=CC=CC=C2C1C | C12H13NO
